US07144884B2
4a, 4-[2-(4-Methylphenylsulfanyl)phenyl]-3,6-dihydro-2H-pyridine
Concentrated aq hydrochloric acid (10 ml) was added to a stirred solution of 1-tert-butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol (0.84 g, 2.1 mmol) in acetic acid (30 mL). The solution was boiled under reflux overnight, cooled to room temperature and then stirred in an ice bath. An aqueous solution of NaOH (9.1 M, 40 mL) was slowly added and the unclear solution was extracted with ethyl acetate (2×40 ml). The combined organic phases were dried (MgSO4) and the solvents evaporated in vacuo. The crude material (0.48 g) was dissolved in ethyl acetate (3.2 mL) at 50° C. and a solution of oxalic acid (0.11 g) in EtOH (3.2 mL) was slowly added. The target compound was collected as a white oxalic salt. 1H (DMSO-d6) δ 7.3–7.2 (m, 7H); 7.15 (m, 1H); 7.00 (m, 1H); 5.6 (d, 1H); 3.7 (d, 2H); 3.25 (t, 2H); 2.6 (m, 2H); 2.3 (s, 3H). LC/MS (m/z) 282.2 (MH+); RT=2.24; purity (UV, ELSD): 99%, 100%; yield: 0.31 g (40%).

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | 1-tert-butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol | 2.1 mmol, 0.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C23H29NO3S
reactant | NaOH | 9.1 M, 40 mL | [OH-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-[2-(4-Methylphenylsulfanyl)phenyl]-3,6-dihydro-2H-pyridine | CC1=CC=C(C=C1)SC1=C(C=CC=C1)C=1CCNCC1 | C18H19NS
